US07122672B2
3-Bromo-6-hydroxyquinoline (2.75 g) and cuprous chloride (9 g) in dry N-methylpyrrolidin-2-one (25 ml) were stirred and heated at 150° C. under an atmosphere of nitrogen for 2 hours. The dark red suspension was cooled to ambient temperature, poured into water then treated with sufficient aqueous ammonia to dissolve the solid material. The blue solution was taken to pH 5–6 with hydrochloric acid (2M) then ethyl acetate was added. The mixture was filtered and the insoluble solids washed with ethyl acetate. The organic component of the filtrate was separated and the aqueous phase was further extracted with ethyl acetate. The ethyl acetate fractions were combined, washed with brine, dried over magnesium sulphate then evaporated under reduced pressure to give a solid. The solid was fractionated by chromatography (silica; hexane/ethyl acetate, 2:1 by volume) to give 3-chloro-6-hydroxyquinoline as a pale yellow solid, 0.95 g. (M+ 179, 1×Cl). 1H NMR (CDCl3) δ: 7.06(1H, d); 7.35(1H, dd); 7.91(1H, d); 7.96(1H, d); 8.59(1H, d); 9.55(1H, s).

reactant | 3-Bromo-6-hydroxyquinoline | 2.75 g | BrC=1C=NC2=CC=C(C=C2C1)O | C9H6BrNO
reactant | water | O | H2O
reactant | ammonia | N | H3N
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | N-methylpyrrolidin-2-one | 25 ml | CN1C(CCC1)=O | C5H9NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-6-hydroxyquinoline | ClC=1C=NC2=CC=C(C=C2C1)O | C9H6ClNO
